US05948803
N-(4-trifluoromethylbenzyl)-5-(2,4-dioxothiazolidin-5-yl)-2-methoxybenzamid
To a solution of 4-trifluoromethylbenzylamine (71.9 g) in DMF (1 L) were added 5-(2,4-dioxothiazolidin-5-yl)-2-methoxybenzoic acid (98.7 g), diethyl cyanophosphate (94.7 g) and triethylamine (63 ml) under cooling with ice and stirring, and the mixture was stirred for 15 minutes as it was. Thereafter, it was stirred for 7 hours at room temperature. The reaction mixture was poured into water, which was extracted with ethyl acetate and, after washing with water, dried over anhydrous sodium sulfate. This was concentrated under reduced pressure and the residue was dissolved into ethanol. After treating with activated charcoal, this was filtered through celite and water was added to the filtrate. The crystals deposited were collected by filtration and dried to obtain 83.6 g (53%) of aimed compound as colorless powder. Melting point: 168.0~169.0° C.

reactant | 4-trifluoromethylbenzylamine | 71.9 g | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | 5-(2,4-dioxothiazolidin-5-yl)-2-methoxybenzoic acid | 98.7 g | O=C1SC(C(N1)=O)C=1C=CC(=C(C(=O)O)C1)OC | C11H9NO5S
reactant | diethyl cyanophosphate | 94.7 g | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 63 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(4-trifluoromethylbenzyl)-5-(2,4-dioxothiazolidin-5-yl)-2-methoxybenzamid | 83.6 g, 53% | FC(C1=CC=C(CNC(C2=C(C=CC(=C2)C2C(NC(S2)=O)=O)OC)=O)C=C1)(F)F | C19H15F3N2O4S
